US07772221B2
Step BF (3): To a solution of (S)-methyl 2-(benzyloxycarbonylamino)-3-(3,5-dichlorophenyl)propanoate (20.60 g, 53.94 mmol) in THF was added 2M LiOH (250 mL). After the reaction was stirred at rt for 18 h, the THF was removed in vacuo. The pH was adjusted to below two by 6M HCl. The mixture was extracted three times into EtOAc, and the combined organic layers were dried with MgSO4. Concentration in vacuo afforded pure (S)-2-(benzyloxycarbonylamino)-3-(3,5-dichlorophenyl)propanoic acid. This material was taken up in methylene chloride (250 mL), and p-nitrophenol (7.50 g, 53.94 mmol) was added. EDC was added portionwise (12.43 g, 64.73 mmol), followed by Hunig's base (11.3 mL, 64.73 mmol). The reaction was allowed to stir at rt for 80 h. The reaction was extracted 3 times with 1M HCl, then with brine. The reaction was next extracted with 0.5M NaOH (yellow color formed), and again with brine. The organic layer was dried with MgSO4, and concentrated to a yellow gum. Silica gel chromatography (EtOAc/hexane gradient) afforded (S)-4-nitrophenyl 2-(benzyloxycarbonylamino)-3-(3,5-dichlorophenyl)propanoate (26.37 g, 58% yield).

reactant | (S)-methyl 2-(benzyloxycarbonylamino)-3-(3,5-dichlorophenyl)propanoate | 53.94 mmol, 20.60 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=CC(=C1)Cl)Cl | C18H17Cl2NO4
reactant | LiOH | 2M, 250 mL | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | (S)-2-(benzyloxycarbonylamino)-3-(3,5-dichlorophenyl)propanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=CC(=C1)Cl)Cl | C17H15Cl2NO4
